### PR TITLE
feat(Nat): Add `padicValNat_eq_primeFactorsList_count`

### PR DESCRIPTION
**Pull request by yuanyi-350**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by themathqueen** [comment]
I remember I PRed something like this a while ago: #27311. I think @eric-wieser suggested against it.

**Comment by yuanyi-350** [comment]
@themathqueen , I am aware of this. However, I find this lemma very helpful — I have used it twice in #27254, and it would have been quite complicated without it.

File: Mathlib/Data/Nat/Factorization/Defs.lean [hunk 1]
```diff
@@ -90,6 +90,12 @@ theorem multiplicity_eq_factorization {n p : ℕ} (pp : p.Prime) (hn : n ≠ 0)
     multiplicity p n = n.factorization p := by
   simp [factorization, pp, padicValNat_def' pp.ne_one hn]
 
+theorem padicValNat_eq_primeFactorsList_count {m p : ℕ} [hp : Fact p.Prime] :
+    padicValNat p m = m.primeFactorsList.count p := by
+  by_cases hm : m = 0
+  · simp [hm]
+  · rw [primeFactorsList_count_eq, padicValNat_def hm, multiplicity_eq_factorization hp.out hm]
```
Comment (themathqueen) [inline Mathlib/Data/Nat/Factorization/Defs.lean]:
```suggestion
  cases m <;> simp [primeFactorsList_count_eq, padicValNat_def, multiplicity_eq_factorization hp.out]
```

File: Mathlib/Data/Nat/Factorization/Defs.lean [hunk 2]
```diff
@@ -90,6 +90,10 @@ theorem multiplicity_eq_factorization {n p : ℕ} (pp : p.Prime) (hn : n ≠ 0)
     multiplicity p n = n.factorization p := by
   simp [factorization, pp, padicValNat_def' pp.ne_one hn]
 
+theorem padicValNat_eq_primeFactorsList_count {m p : ℕ} [hp : Fact p.Prime] :
+    padicValNat p m = m.primeFactorsList.count p := by
+  cases m <;> simp [primeFactorsList_count_eq, padicValNat_def, multiplicity_eq_factorization hp.out]
```
Comment (themathqueen) [inline Mathlib/Data/Nat/Factorization/Defs.lean]: I think the line exceeds 100 characters, my bad:
```suggestion
  cases m <;>
    simp [primeFactorsList_count_eq, padicValNat_def, multiplicity_eq_factorization hp.out]
```

File: Mathlib/Data/Nat/Factorization/Defs.lean [hunk 3]
```diff
@@ -90,6 +90,11 @@ theorem multiplicity_eq_factorization {n p : ℕ} (pp : p.Prime) (hn : n ≠ 0)
     multiplicity p n = n.factorization p := by
   simp [factorization, pp, padicValNat_def' pp.ne_one hn]
 
+theorem padicValNat_eq_primeFactorsList_count {m p : ℕ} [hp : Fact p.Prime] :
+    padicValNat p m = m.primeFactorsList.count p := by
+  cases m <;>
+    simp [primeFactorsList_count_eq, padicValNat_def, multiplicity_eq_factorization hp.out]
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorization/Defs.lean:96]:
```suggestion
  rw [Nat.primeFactorsList_count_eq, Nat.factorization_def _ Fact.out]
```
and so I don't think we want this lemma (as I said before in https://github.com/leanprover-community/mathlib4/pull/27311#discussion_r2220578386)

Comment (yuanyi-350) [reply Mathlib/Data/Nat/Factorization/Defs.lean:96]: Oh, I get it. With your method, we no longer need to classify the `m = 0` case, so it's a lot easier.
